US05759443
A suspension of 3.7 g of (8-cyclopentyl-octyl)-triphenylphosphonium bromide (prepared by heating 3.4 g of (8-bromooctyl)-cyclopentane and 3.9 g of triphenylphosphine in 15 ml of toluene overnight and precipitation of the product from the cooled reaction mixture by addition of hexane) in 20 ml of tert.-butyl methyl ether is treated with 0.8 g of potassium tert.-butylate and the yellow suspension is stirred at room temperature for 45 minutes. Then, a solution of 1.64 g of 2-(4-heptyloxy-phenyl)-pyrimidine-5-carboxaldehyde in 10 ml of tetrahydrofuran is added dropwise at 0° to 5° C. The reaction mixture is stirred at 0° C. for a further 2 hours and then triturated with 10 ml of saturated sodium hydrogen carbonate solution. The phases are separated and the organic phase is washed with saturated sodium chloride solution, dried over sodium sulphate, filtered and concentrated. The residue is partitioned between methanol/water (vol.) 4:1 and hexane and the methanol phase is separated. The hexane phase is washed with methanol/water 4:1 and the filtrate is concentrated. The crude 5-(9-cyclopentyl-non-1-enyl)-2-(4-heptyloxy-phenyl)-pyrimidine obtained is purified by chromatography on 10 g of silica gel with hexane/ethyl acetate 19:1 (v/v).

reactant | (8-cyclopentyl-octyl)-triphenylphosphonium bromide | 3.7 g | [Br-].C1(CCCC1)CCCCCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | hexane | CCCCCC | C6H14
reactant | 2-(4-heptyloxy-phenyl)-pyrimidine-5-carboxaldehyde | 1.64 g | C(CCCCCC)OC1=CC=C(C=C1)C1=NC=C(C=N1)C=O | C18H22N2O2
solvent | tert.-butyl methyl ether | 20 ml | COC(C)(C)C | C5H12O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 5-(9-cyclopentyl-non-1-enyl)-2-(4-heptyloxy-phenyl)-pyrimidine | C1(CCCC1)CCCCCCCC=CC=1C=NC(=NC1)C1=CC=C(C=C1)OCCCCCCC | C31H46N2O
